*** netlisting can be given as

.include cmos_130nm.txt

M13 9 1 vdd vdd PMOS          W= 23.64375U L= 0.8U
M14 Vout 1 vdd vdd PMOS       W= 23.64375U L= 0.8U
M10 Vout 8 vdd vdd PMOS       W= 51.76U L= 0.6U
M9 9 2 vdd vdd PMOS           W= 51.76U L= 0.6U
M7 6 1 vdd vdd PMOS           W= 162.65U L= 0.8U
M8 7 1 vdd vdd PMOS           W= 162.65U L= 0.8U
M5 2 u 6 6 PMOS             W= 130.12U L= 1U
M6 8 u 7 7 PMOS             W= 130.12U L= 1U
M11 9 p 0 0 NMOS            W= 4.25U L= 1U
M12 Vout p 0 0 NMOS         W= 4.25U L= 1U
M3 2 p 3 0 NMOS             W= 54.97U L= 0.75U
M4 8 p 4 0 NMOS             W= 54.97U L= 0.75U
M1 3 Vin1 5 0 NMOS            W= 137.43U L= 0.3U
M2 4 Vin2 5 0 NMOS            W= 137.43U L= 0.3U


MA1 14 Vin1 19 0 NMOS            W=70.52U L= 1U
MA2 20 Vin2 19 0 NMOS            W= 70.52U L= 1U
MP1 9 16 vdd vdd PMOS            W= 419.86U L= 0.18U
MP2 Vout 18 vdd vdd PMOS         W= 419.86U L= 0.18U
MN1 9 15 0 0 NMOS                W= 163.33U L= 0.18U
MN2 Vout 17 0 0 NMOS             W= 163.33U L= 0.18U

* netlist for VBIAS1,2,3 and IB1,3

M18 p r q 0 NMOS          W= 2U L= 1U
M19 q q 0 0 NMOS             W= 1.92918U L= 1U
M20 u t v 0 NMOS          W= 10U L= 1U
M21 v v 0 0 NMOS             W= 11.08429U L= 1U
Mref1 e e 0 0 NMOS          W= 1.15825U L= 1U
M16 5 e 0 0 NMOS             W= 36.75U L= 1U
M17 Vout e 0 0 NMOS             W= 5.762U L= 1U
M22 9 e 0 0 NMOS             W= 5.762U L= 1U
M23 19 e 0 0 NMOS             W= 4.913U L= 1U
M24 f g h 0 NMOS          W= 2U L= 1U
M25 h h 0 0 NMOS             W= 1.089U L= 1U
M26 m n c 0 NMOS          W= 120U L= 0.25U
M27 c c 0 0 NMOS             W= 45U L= 0.25U

*resistor
R1  2 1 2000k
R2  1 8 2000k
RZright  8 10 30k
RZleft  2 11 30k
RBright  u 12 20k
RBleft  u 13 20k
R18  r p 7564
R20  t u 7564
R21  g f 7564
R22  n m 7564
RA1  vdd 14 7.75k
RA2  vdd 20 7.75k
RBrighttop f 18 25k
RBlefttop  f 16 25k
RBrightbottom  m 17 25k
RBleftbottom  m 15 25k

*capacitor
CZright 10 Vout 0.8p
CZleft 11 9 0.8p
CLr Vout 0 0.5p
CLl 9 0 0.5p
CBright 8 12 200f
CBleft 2 13 200f
CBrighttop 18 20 0.7p
CBlefttop 16 14 0.7p
CBrightbottom 20 17 0.7p
CBleftbottom 14 15 0.7p


*supply**
V1 vdd 0 1.5

* Iref required for constant current mirror*
Iref vdd  e 50U
Iref1 vdd  r 50U
Iref2 vdd  t 50U
Iref3 vdd  g 50U
Iref4 vdd  n 50U

** given value of Vcm to be used to calculate parameters**
VG1 Vin1 0 0.75 ac 1
VG2 Vin2 0 0.75 


.control
op
set xbrushwidth = 2
print v(Vout)
print v(p)
print v(u)
print v(f)
print v(m)
print @M16[id]
print @M22[id]
print @M23[id]
print @M12[id]
print @M10[id]
print @M16[id]
print @M17[id]
print @M22[id]
print @M14[vds]-@M14[vgs]+@M14[vth]
print @M14[vgs]-@M14[vth]
print @M1[id]
print @M2[id]
print @M8[id]
print @M9[id]
print @M10[id]
print @M11[id]
print @M14[id]
print @MA1[id]
print @MA2[id]
print @MP1[id]
print @MN1[id]
print @MP2[id]
print @MN2[id]
print @MA1[vds]
print @MA2[vds]
print @MP1[vds]
print @MN1[vds]
print @MP2[vds]
print @MN2[vds]
print @M12[vds]
print @M12[id]
print @M2[gm]
print @M4[gm]
print @M6[gm]
print @M8[gm]
print @M12[vds]
Print @M11[vds]
print 1/@M2[gds]
print 1/@M4[gds]
print 1/@M6[gds]
print 1/@M8[gds]
print @M6[gm]*((1/@M6[gds])*(1/@M8[gds]))
print @M4[gm]*((1/@M4[gds])*(1/@M2[gds]))
print (1/(@M2[gds]+@M4[gds]))
print @M10[gm]
print @M10[gm]*(1/(@M10[gds]+@M12[gds]))
print @M1[vgs]-@M1[vth]
print @M2[vgs]-@M2[vth]
print @M3[vgs]-@M3[vth]
print @M4[vgs]-@M4[vth]
print @M5[vgs]-@M5[vth]
print @M6[vgs]-@M6[vth]
print @M7[vgs]-@M7[vth]
print @M8[vgs]-@M8[vth]
print @M10[vgs]-@M10[vth]
print @M12[vgs]-@M12[vth]
print @M1[vds]-@M1[vgs]+@M1[vth]
print @M2[vds]-@M2[vgs]+@M2[vth]
print @M3[vds]-@M3[vgs]+@M3[vth]
print @M4[vds]-@M4[vgs]+@M4[vth]
print @M5[vds]-@M5[vgs]+@M5[vth]
print @M6[vds]-@M6[vgs]+@M6[vth]
print @M7[vds]-@M7[vgs]+@M7[vth]
print @M8[vds]-@M8[vgs]+@M8[vth]
print @M10[vds]-@M10[vgs]+@M10[vth]
print @M12[vds]-@M12[vgs]+@M12[vth]


ac dec 100 1 10G
plot vdb(Vout)
plot (180/pi)*phase(Vout)  


.endc
.end



