*** netlisting can be given as

.include cmos_130nm.txt


M10 Vout2 8 vdd vdd PMOS       W= 51.76U L= 0.6U
M9 Vout1 2 vdd vdd PMOS           W= 51.76U L= 0.6U
M7 6 1 vdd vdd PMOS           W= 162.65U L= 0.8U
M8 7 1 vdd vdd PMOS           W= 162.65U L= 0.8U
M5 2 u 6 6 PMOS             W= 130.12U L= 1U
M6 8 u 7 7 PMOS             W= 130.12U L= 1U
M11 Vout1 p 0 0 NMOS            W= 4.25U L= 1U
M12 Vout2 p 0 0 NMOS         W= 4.25U L= 1U
M3 2 p 3 0 NMOS             W= 54.97U L= 0.75U
M4 8 p 4 0 NMOS             W= 54.97U L= 0.75U
M1 3 VG1 5 0 NMOS            W= 137.43U L= 0.3U
M2 4 VG2 5 0 NMOS            W= 137.43U L= 0.3U


MA1 14 Vin1 19 0 NMOS            W=70.52U L= 1U
MA2 20 Vin2 19 0 NMOS            W= 70.52U L= 1U
MP1 Vout1 16 vdd vdd PMOS            W= 419.86U L= 0.18U
MP2 Vout2 18 vdd vdd PMOS         W= 419.86U L= 0.18U
MN1 Vout1 15 0 0 NMOS                W= 163.33U L= 0.18U
MN2 Vout2 17 0 0 NMOS             W= 163.33U L= 0.18U

* netlist for VBIAS1,2,3 and IB1,3

M18 p r q 0 NMOS          W= 2U L= 1U
M19 q q 0 0 NMOS             W= 1.92918U L= 1U
M20 u t v 0 NMOS          W= 10U L= 1U
M21 v v 0 0 NMOS             W= 11.08429U L= 1U
Mref1 e e 0 0 NMOS          W= 1.15825U L= 1U
M16 5 e 0 0 NMOS             W= 36.75U L= 1U
M23 19 e 0 0 NMOS             W= 4.913U L= 1U
M24 f g h 0 NMOS          W= 2U L= 1U
M25 h h 0 0 NMOS             W= 1.089U L= 1U
M26 m n c 0 NMOS          W= 120U L= 0.25U
M27 c c 0 0 NMOS             W= 45U L= 0.25U

*resistor
R1  2 1 2000k
R2  1 8 2000k
RZright  8 10 30k
RZleft  2 11 30k
RBright  u 12 20k
RBleft  u 13 20k
R18  r p 7564
R20  t u 7564
R21  g f 7564
R22  n m 7564
RA1  vdd 14 7.75k
RA2  vdd 20 7.75k
RBrighttop f 18 25k
RBlefttop  f 16 25k
RBrightbottom  m 17 25k
RBleftbottom  m 15 25k
RSL1  Vm1 VG1 100k
RSL2  Vm2 VG2 400k

*capacitor
CZright 10 Vout2 0.9p
CZleft 11 Vout1 0.9p
CLr Vout2 0 0.5p
CLl Vout1 0 0.5p
CBright 8 12 200f
CBleft 2 13 200f
CBrighttop 18 20 0.05p
CBlefttop 16 14 0.05p
CBrightbottom 20 17 1.5p
CBleftbottom 14 15 1.5p

C21 VG1 vin1 0.0095p
C22 VG2 vin2 0.0095p
C11 VG1 vout2 0.0007p
C12 VG2 Vout1 0.0007p

*supply**
V1 vdd 0 1.5

* Iref required for constant current mirror*
Iref vdd  e 50U
Iref1 vdd  r 50U
Iref2 vdd  t 50U
Iref3 vdd  g 50U
Iref4 vdd  n 50U


** given value of Vcm to be used to calculate parameters**
V2 Vm1 0 0.75 
V3 Vm2 0 0.75 
 
***TRANSIENT ANALYSIS with pulse inputs
VCk1 vin1 0 DC 0 PULSE(0 0.5 0ns 1pS 1pS 100nS 200nS)
VCk2 vin2 0 DC 0 PULSE(0 0 5ns 1pS 1pS 100nS 200nS)
  

.tran 5ns 1000ns 0nS
.control
run
let vdout = vout1
let vdin = vin1-vin2
plot V(vdout) V(vdin)
*plot v(vout1) v(vout2)
meas tran drise TRIG v(vdout) VAL=0 RISE=2 TARG v(vdout) VAL=0.3 RISE=2
meas tran dfall TRIG v(vdout) VAL=0.5 FALL=2 TARG v(vdout) VAL=0.2 FALL=2 
.endc
.end